US08067450B2
Step 1: Preparation of 2-(2-fluorophenyl)oxirane
To a solution of o-fluorostyrene (5.0 g, 41.0 mmol) and acetic acid (2.33 mL, 40.9 mmol) in dioxane (33 ml) and H2O (78 ml) at 0° C. was added N-bromosuccinimide (8.02 g, 45.0 mol) in three portions. The reaction was allowed to warm to R.T and stirred overnight. Sodium carbonate (8.68 g, 81.9 mmol) was added in portions and then 1M NaOH (ca. 10 ml) was added and the reaction was stirred at RT overnight. The reaction mixture was partitioned between water and EtOAc, and the aqueous phase was extracted with EtOAc. The combined organic phases washed with brine, dried (Na2SO4), filtered and evaporated in vacuo to give 5.31 g (94%) of the title compound as a slightly tinted oil which was used without further purification. MS (ESI+) for C8H7FO m/z 138.1 (M+H)+.

reactant | o-fluorostyrene | 41.0 mmol, 5.0 g | FC1=C(C=C)C=CC=C1 | C8H7F
reactant | acetic acid | 40.9 mmol, 2.33 mL | C(C)(=O)O | C2H4O2
reactant | N-bromosuccinimide | 45.0 mol, 8.02 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | Sodium carbonate | 81.9 mmol, 8.68 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | NaOH | 1M, ca. 10 ml | [OH-].[Na+]
solvent | dioxane | 33 ml | O1CCOCC1 | C4H8O2
solvent | H2O | 78 ml | O | H2O
product | 2-(2-fluorophenyl)oxirane | 5.31 g, 94% | FC1=C(C=CC=C1)C1OC1 | C8H7FO
